US06130339
To a refluxing solution of 1-bromo-4-nitrobenzene (2.762 g, 13.67 mmol) in toluene (250 mL) was added tetrakis(triphenylphosphine)palladium(0) (75 mg). After 20 min, 2-(tributylstannyl) 3,4-(ethylenedioxy)thiophene (6.05 g, 14.03 mmol) was added via a syringe. After complete addition, the mixture was refluxed for a total of 20 h. After cooling, the mixture was filtered and the solvent was evaporated to afford a solid. Filtration using hot hexane gave 1-(3,4-ethylenedioxythien-2-yl)-4-nitrobenzene, 2.46 g, yield=68%, mp=184-186° C. IR (KBr; in cm-1) 3066, 2946, 1592, 1506, 1477, 1338, 1066 and 851. 1H NMR (CDCl3 ; δ in ppm): 4.285 (m, 2H), 4.376 (m, 2H), 6.468 (s, 1H), 7.852 (d, J=9.9 Hz, 2H) and 8.197 (d, J=9.9 Hz, 2H). 13C NMR (CDCl3 ; δ in ppm): 64.25, 64.94, 100.93, 115.10, 124.03, 125.61, 139.72, 140.53, 142.43 and 145.37. MS(EI) m/z (rel int): 263 [(M)+, 27%], 233 [(M+ --NO), 8%] and 166[(M+ --C5H5O2), 9%]. Anal. Calcd for C12H9NO4S: C, 54.75; H, 3.45;, N, 5.32; S, 12.18. Found: C, 55.04; H, 2.99; N, 4.05; S, 11.57.

reactant | 1-bromo-4-nitrobenzene | 13.67 mmol, 2.762 g | BrC1=CC=C(C=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | 2-(tributylstannyl) 3,4-(ethylenedioxy)thiophene | 14.03 mmol, 6.05 g | C(CCC)[Sn](C=1SC=C2C1OCCO2)(CCCC)CCCC
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 75 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(3,4-ethylenedioxythien-2-yl)-4-nitrobenzene | yield=68% | C1OC2=C(SC=C2OC1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H9NO4S
